US08242151B2
2-Ethyl-5,7-dimethyl-3H-imidazo[4,5-b]pyridine (0.85 g, 4.8 mmol) was dissolved in DMF (15 mL), and the solution was added with potassium tert-butoxide (0.60 g, 5.3 mmol) at 0° C. followed by stirring for 10 min. Thereto was added a solution of the residue obtained above in DMF (8 mL), and the mixture was stirred at room temperature for 2 hr. Ethyl acetate was added to the mixture, the organic layer was washed with brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=3/1-1/3) to give (E)-[2-(2-ethyl-5,7-dimethyl-3H-imidazo[4,5-b]pyridin-3-yl)methyl-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-ylidene]acetonitrile (1.28 g, 63%).

reactant | 2-Ethyl-5,7-dimethyl-3H-imidazo[4,5-b]pyridine | 4.8 mmol, 0.85 g | C(C)C1=NC=2C(=NC(=CC2C)C)N1 | C10H13N3
reactant | potassium tert-butoxide | 5.3 mmol, 0.60 g | CC(C)([O-])C.[K+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | (E)-[2-(2-ethyl-5,7-dimethyl-3H-imidazo[4,5-b]pyridin-3-yl)methyl-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-ylidene]acetonitrile | 1.28 g, 63% | C(C)C1=NC=2C(=NC(=CC2C)C)N1CC1=CC2=C(\C(\C3=C(CC2)C=CC=C3)=C\C#N)C=C1 | C28H26N4
